US06548671B2
Quinoxaline-2-carboxylic acid (4-benzenesulfonyl-1-benzyl-2-hydroxy-7-methyl-octyl)-amide
To a solution of one equivalent of 2-amino-5-benzenesulfonyl-8-methyl-1-phenyl-nonan-3-ol in methylene chloride is added 1.05 equivalents each of 2-quinoxalinecarboxylic acid, N-methyl morpholine, and O-benzotriazol-1-yl-N,N,N′,N′-teteramethyluronium hexafluorophosphate. The reaction mixture is stirred at ambient temperature for 18 h. After standard aqueous work-up and extraction, followed by concentration and silica gel chromatography the title compound is obtained.

reactant | 2-amino-5-benzenesulfonyl-8-methyl-1-phenyl-nonan-3-ol | one equivalent | NC(CC1=CC=CC=C1)C(CC(CCC(C)C)S(=O)(=O)C1=CC=CC=C1)O | C22H31NO3S
reactant | 2-quinoxalinecarboxylic acid | 1.05 equivalents | N1=C(C=NC2=CC=CC=C12)C(=O)O | C9H6N2O2
reactant | N-methyl morpholine | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Quinoxaline-2-carboxylic acid (4-benzenesulfonyl-1-benzyl-2-hydroxy-7-methyl-octyl)-amide | C1(=CC=CC=C1)S(=O)(=O)C(CC(C(CC1=CC=CC=C1)NC(=O)C1=NC2=CC=CC=C2N=C1)O)CCC(C)C | C31H35N3O4S
